US04839536
4-Nitropyridine-N-oxide/4-Nitroaniline (2)
A saturated solution of 4-nitroaniline was made by heating 50 ml of acetone to boiling in a beaker on a hot plate and adding 4-nitroaniline with stirring until no more of the added solid dissolved. A saturated solution of 4-nitropyridine-N-oxide was made using the same method. About 25 ml of each saturated solution was filtered and subsequently mixed together. A solution of soapy water was made to use as a surfactant layer. A thin (1-2 mm) layer of 50%/50% v:v of soap and water solution was pipetted onto the top of the solution to prevent wicking of the solution up the sides of the beaker. The surfactant layer was used to improve the quality of crystals and does not affect the composition of the final product. The solution was left undisturbed for five days until crystals of 2 were isolated. The crystals of 2 were clear, bright red, and shaped like sword blades. The approximate size of these crystals was 2.00 mm×0.20 mm×0.05 mm. The melting point of a single crystal of 2 was 124.0-126.0° C.

reactant | 4-nitroaniline | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | 4-nitropyridine-N-oxide | [N+](=O)([O-])C1=CC=[N+](C=C1)[O-] | C5H4N2O3
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 4-Nitropyridine-N-oxide 4-Nitroaniline | [N+](=O)([O-])C1=CC=[N+](C=C1)[O-].[N+](=O)([O-])C1=CC=C(N)C=C1 | InChI=1S/C6H6N2O2.C5H4N2O3/c7-5-1-3-6(4-2-5)8(9)10;8-6-3-1-5(2-4-6)7(9)10/h1-4H,7H2;1-4H
